US07666871B2
1-(4′-{5-Methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazol-2-yl}-biphenyl-4-yl)-ethanone
To a stirred solution of 2-(4-Bromo-phenyl)-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole (100 mg, 0.287 munol), sodium carbonate (91 mg, 0.860 mmol) and 4-acetylphenyl boronic acid (235 mg, 1.43 mmol) in toluene (5 mL), water (1 mL) and ethanol (1.5 mL) under nitrogen is added Tetrakis (triphenylphosphine) palladium (0) (33.1 mg, 0.029 mmol). The reaction is heated at reflux for 48 h. The reaction is allowed to cool and bound to a SCX-2 cartridge (10 g). The cartridge is washed with one cartridge volumes of dimethylformamide and two volume of methanol. The product is eluted using 2M ammonia in methanol. The ammonia/methanol solution is evaporated on a Genevac® HT4. The sample is further purified by prep-LCMS. The resulting acetonitrile/water fractions are combined and evaporated using a Genevac® HT4 to give 62 mg of a colourless oil (56%). MS (m/e) 389.2 (M+1)

reactant | 2-(4-Bromo-phenyl)-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole | 100 mg | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1[C@@H](CCC1)C)C | C17H21BrN2O
reactant | sodium carbonate | 0.860 mmol, 91 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-acetylphenyl boronic acid | 1.43 mmol, 235 mg | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 mL | O | H2O
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
catalyst | Tetrakis (triphenylphosphine) palladium (0) | 0.029 mmol, 33.1 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-(4′-{5-Methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazol-2-yl}-biphenyl-4-yl)-ethanone | 62 mg, 56% | CC1=C(N=C(O1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O)CCN1[C@@H](CCC1)C | C25H28N2O2
